US05194532
A. Preparation of Indenyltitanium Tris(Dimethylamide), (Complex IA)
A 250 mL Schlenk flask is charged with toluene, 75 mL, and titanium tetrakis(dimethylamide), 2.35 g (10.48 mmole). The mixture is stirred magnetically throughout the procedure. Freshly degassed indene (nitrogen sparged) is added to the Schlenk flask at room temperature in excess, 2.44 mL (20.96 mmole). The mixture is refluxed at least 24 hours giving a blood red solution. All volatiles are removed under vacuum at room temperature leaving a deep red, oily residue. The residue is transferred in a minimum of hexane to a micro scale distillation apparatus and distilled under vacuum. A viscous red oil distills at 60° C. (0.025 mm Hg) which is identified by nuclear magnetic resonance (NMR) as indenyltitanium tris(dimethylamide). The yield is 70% by this method of preparation.

reactant | titanium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
reactant | indene | C1C=CC2=CC=CC=C12 | C9H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Indenyltitanium Tris(Dimethylamide) | yield is 70% | C[N-]C.C[N-]C.C[N-]C.C1(C=CC2=CC=CC=C12)[Ti+3] | InChI=1S/C9H7.3C2H6N.Ti/c1-2-5-9-7-3-6-8(9)4-1;3*1-3-2;/h1-7H;3*1-2H3;/q;3*-1;+3
